US04943637
2-nitro-4-chloro-2'-hydroxy-3',5'-di-t-butylazobenzene 26.0 g and 9-fluorenone 2.0 g were added to a mixture of isopropyl alcohol 80 g, water 14 g and 97% sodium hydroxide 11.0 g, and the resultant mixture was stirred at the boiling point of 79° C. for 8 hours to effect reaction, thus almost all of the azobenzene having disappeared to produce 2-(2-hydroxy-3,5-di-t-butylphenyl)-5-chlorobenzotriazole-N-oxide. Thus, the reaction of Process (b) was completed.

reactant | 2-nitro-4-chloro-2'-hydroxy-3',5'-di-t-butylazobenzene | 26.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H24ClN3O3
reactant | 9-fluorenone | 2.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | sodium hydroxide | 11.0 g | [OH-].[Na+]
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
reactant | water | 14 g | O | H2O
solvent | isopropyl alcohol | 80 g | C(C)(C)O | C3H8O
product | 2-(2-hydroxy-3,5-di-t-butylphenyl)-5-chlorobenzotriazole-N-oxide | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=[N+]1[O-])C=CC(=C2)Cl | C20H24ClN3O2
